US07429565B2
[2-(Formyl-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-amino)-ethyl]-phosphonic acid diethyl ester
To a solution of (2-{4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enylamino}-ethyl)-phosphonic acid diethyl ester (74 mg, 0.14 mmol) in formic acid (1 mL) was added formic anhydride (1 mL) and the solution was stirred at room temperature for 1 hour. The reaction mixture was concentrated and the crude product carried onto the next step. The NMR data of this compound shows two rotamers with the ratio of 70:30. 1H NMR (300 MHz, CDCl3) δ 0.05 (s, 9H), 1.18-1.28 (m, 2H), 1.28 and 1.30 (t, 6H, J=7 Hz), 1.74 (s, 3H), 1.84-2.08 (m, 2H), 2.19 (s, 3H), 3.34-3.45 (m, 2H), 3.47 (d, 2H, J=7 Hz), 3.72 and 3.87 (s, 2H), 3.78 and 3.79 (s, 3H), 4.06 and 4.07 (pent, 4H, J=7 Hz), 4.26-4.37 (m, 2H), 5.13 (s, 2H), 5.30-5.46 (m, 1H), 8.03 and 8.19 (s, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 27.5 and 28.1 ppm; MS (m/z) 570.1 [M+H]+, 592.2 [M+Na]+.

reactant | (2-{4-[6-Methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enylamino}-ethyl)-phosphonic acid diethyl ester | 0.14 mmol, 74 mg | C(C)OP(OCC)(=O)CCNCC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C | C26H44NO7PSi
reactant | formic anhydride | 1 mL | C(=O)OC=O | C2H2O3
solvent | formic acid | 1 mL | C(=O)O | CH2O2
product | [2-(Formyl-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-amino)-ethyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCN(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)C=O | C27H44NO8PSi
